US05454975
39A 4'-propyl-2',6',3,5-tetrafluorobiphenyl-4-yl boronic acid
0.6 mol of lithium diisopropylamide is added at 0° C. to a mixture of 0.5 mol of 4'-propyl-2',6',3,5-tetrafluorobiphenyl (prepared from 4-propyl-2,6-difluoroiodobenzene and 3,5-difluorophenylboronic acid analogously to Example 23C). 0.5 mol of trimethyl borate and 500 ml of THF, and the mixture is stirred for two hours.

reactant | lithium diisopropylamide | 0.6 mol | C(C)(C)[N-]C(C)C.[Li+]
reactant | 4'-propyl-2',6',3,5-tetrafluorobiphenyl | 0.5 mol | C(CC)C1=CC(=C(C(=C1)F)C1=CC(=CC(=C1)F)F)F | C15H12F4
reactant | 4-propyl-2,6-difluoroiodobenzene | C(CC)C1=CC(=C(C(=C1)F)I)F | C9H9F2I
reactant | 3,5-difluorophenylboronic acid | FC=1C=C(C=C(C1)F)B(O)O | C6H5BF2O2
reactant | trimethyl borate | 0.5 mol | B(OC)(OC)OC | C3H9BO3
solvent | THF | 500 ml | C1CCOC1 | C4H8O
product | 4'-propyl-2',6',3,5-tetrafluorobiphenyl-4-yl boronic acid | C(CC)C1=CC(=C(C(=C1)F)C1=CC(=C(C(=C1)F)B(O)O)F)F | C15H13BF4O2
